US04800201
2,2,2-Trichloroethylchloroformate (1.0 ml) was added dropwise to a solution of 2-ethyl-5-methyl-2H-1,4-thiazin-3(4H)-one (0.94 g) and pyridine (0.96 ml) in acetonitrile (30 ml) under ice-cooling, and the mixture was stirred at 0° C. for 30 minutes. Then the mixture was further stirred at ambient temperature for 18 hours. The solvent was removed under reduced pressure and the residue was extracted with ethyl acetate, was washed with water, 2N hydrochloric acid and water in the order named, and was dried over magnesium sulfate. The solvent was removed under reduced pressure to give 2-ethyl-5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one (2.0 g) as pale yellow oily product.

reactant | 2,2,2-Trichloroethylchloroformate | 1.0 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | 2-ethyl-5-methyl-2H-1,4-thiazin-3(4H)-one | 0.94 g | C(C)C1SC=C(NC1=O)C | C7H11NOS
reactant | pyridine | 0.96 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-ethyl-5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 2.0 g | C(C)C1SC(=C(NC1=O)C)C1C=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl | C15H17Cl3N2O3S
